US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 240 mg.) and conc. hydrochloric acid (71 mg.) in methanol (2.5 ml.) was stirred at room temperature for 6.5 hours. After removing the solvent from the resultant solution in vacuo, the residue was triturated with diisopropyl ether. The precipitates were collected by filtration and washed with diisopropyl ether to give colorless crystals of 7-[2-(2-aminothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 236 mg.)

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 240 mg | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC=1N=C(SC1)C | C18H16N6O6S3
reactant | hydrochloric acid | 71 mg | Cl | ClH
solvent | methanol | 2.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid hydrochloride | 236 mg | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC=1N=C(SC1)C | InChI=1S/C17H16N6O5S3.ClH/c1-7-19-8(5-30-7)4-28-22-11(9-6-31-17(18)20-9)13(24)21-12-14(25)23-10(16(26)27)2-3-29-15(12)23;/h2,5-6,12,15H,3-4H2,1H3,(H2,18,20)(H,21,24)(H,26,27);1H/t12?,15-;/m1./s1
